US06756498B2
i)1-(3-Fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone
A reaction vessel was charged with 2-chloro-5-trifluoromethylpyridine (8 g, 44 mmol), 3-fluoroacetophenone (6.4 g, 46 mmol) and DME (56 ml). Sodium hydride (as a 60% oil dispersion, 5.8 g, 145 mmol) was added in portions to the mixture under nitrogen at room temperature. The mixture was stirred at 40-45° C. overnight. Upon the completion of the reaction, aqueous NH4Cl solution (240 ml) was added to the reaction mixture at room temperature. The mixture was stirred for 0.5 hr and filtered. The cake was washed with water, slurried in hexanes (32 ml) and dried in a vacuum oven to give 10.44 g (84%) of the title compound (a mixture of ketone and enol isomers) as a solid with purity 99% AUC by HPLC (Phenomenex Luna 3μ cyano, 100 mm×4.6 mm. Flow rate: 1 ml/min. UV detection: 220 nm. Eluent: 75% A, 25% B. A: 80/20/0.05 water/acetonitrile/TFA. B: 20/80/0.05 water/acetonitrile/TFA ).

reactant | 2-chloro-5-trifluoromethylpyridine | 44 mmol, 8 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 3-fluoroacetophenone | 46 mmol, 6.4 g | CC(=O)C1=CC(=CC=C1)F | C8H7FO
reactant | Sodium hydride | [H-].[Na+]
reactant | NH4Cl | 240 ml | [NH4+].[Cl-]
solvent | DME | 56 ml | COCCOC | C4H10O2
product | 1-(3-Fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone | 10.44 g, 84% | FC=1C=C(C=CC1)C(CC1=NC=C(C=C1)C(F)(F)F)=O | C14H9F4NO
